US07514446B2
To a mixture of {2-[(2-chloro-5-nitropyrimidin-4-yl)amino]phenyl}(phenyl)-methanone (63 mg, 0.178 mmol) and N-(4-aminophenyl)acetamide (28 mg, 0.185 mmol) in 2-propanol (2 mL) was added 1N HCl in diethyl ether (50 uL, 0.05 mmol). The reaction mixture was heated at 90° C. for approx. 18 hours. After the reaction was cooled to room temperature cold diethyl ether was added to precipitate out the product. The precipitate was filtered and washed with cold diethyl ether, then dried under vacuum to give N-[4-({4-[(2-benzoylphenyl)amino]-5-nitropyrimidin-2-yl}amino)phenyl]acetamide hydrochloride (12 mg, 13%) as a tan solid. 1H NMR (DMSO-d6/D2O): δ 8.98 (s, 1H), 8.12 (m, 1H), 7.69-7.43 (m, 12 H), 2.05 (s, 3 H). MS m/z 468 (M+1).

reactant | {2-[(2-chloro-5-nitropyrimidin-4-yl)amino]phenyl}(phenyl)-methanone | 0.178 mmol, 63 mg | ClC1=NC=C(C(=N1)NC1=C(C=CC=C1)C(=O)C1=CC=CC=C1)[N+](=O)[O-] | C17H11ClN4O3
reactant | N-(4-aminophenyl)acetamide | 0.185 mmol, 28 mg | NC1=CC=C(C=C1)NC(C)=O | C8H10N2O
reactant | HCl | 1N | Cl | ClH
reactant | diethyl ether | 0.05 mmol, 50 uL | C(C)OCC | C4H10O
solvent | 2-propanol | 2 mL | CC(C)O | C3H8O
product | N-[4-({4-[(2-benzoylphenyl)amino]-5-nitropyrimidin-2-yl}amino)phenyl]acetamide hydrochloride | 12 mg, 13% | Cl.C(C1=CC=CC=C1)(=O)C1=C(C=CC=C1)NC1=NC(=NC=C1[N+](=O)[O-])NC1=CC=C(C=C1)NC(C)=O | InChI=1S/C25H20N6O4.ClH/c1-16(32)27-18-11-13-19(14-12-18)28-25-26-15-22(31(34)35)24(30-25)29-21-10-6-5-9-20(21)23(33)17-7-3-2-4-8-17;/h2-15H,1H3,(H,27,32)(H2,26,28,29,30);1H
